US08865744B1
To 180 mg (0.53 mmol) of (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide in DCM (1.74 mL) are added 317 mg (0.75 mmol) of (1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (Dess-Martin-periodinane). The reaction mixture is stirred at RT for 1 h, diluted with sat. aq. NaHCO3 solution and stirred for additonal 30 min. The layers are separated; the organic layer is washed with brine and dried over Na2SO4. The solvent is removed under reduced pressure, the residue is purified by silica gel chromatographie (eluent: EE) to afford 93.0 mg of (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(1,1-dimethyl-2-oxo-ethyl)-isoxazol-5-yl]amide. Yield: 52%; ESI-MS: 336 [M+H]+; HPLC (Rt): 1.12 min (method E)

reactant | (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide | 0.53 mmol, 180 mg | OCC(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1CCOCC1 | C17H27N3O4
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 1.74 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (S)-1-(tetrahydro-pyran-4-yl)-pyrrolidine-2-carboxylic acid [3-(1,1-dimethyl-2-oxo-ethyl)-isoxazol-5-yl]amide | 93.0 mg, Yield: 52% | CC(C=O)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)C1CCOCC1 | C17H25N3O4
